US05756510
2-(4-Methoxyphenyl)benzoxazole-4-carboxamide (Compound NU1054)
Methyl 2-(4-methoxyphenyl)benzoxazole-4-carboxylate was dissolved in liquid ammonia (30 ml) and sealed in an autoclave. The reaction mixture was left at 55° C., 20 bar for >20 hours. Once the reaction was complete the ammonia was removed and the resulting solid recrystallised from boiling ethyl acetate and petrol.

reactant | Methyl 2-(4-methoxyphenyl)benzoxazole-4-carboxylate | COC1=CC=C(C=C1)C=1OC=2C(N1)=C(C=CC2)C(=O)OC | C16H13NO4
reactant | ammonia | 30 ml | N | H3N
product | 2-(4-Methoxyphenyl)benzoxazole-4-carboxamide | COC1=CC=C(C=C1)C=1OC=2C(N1)=C(C=CC2)C(=O)N | C15H12N2O3
